US05103007
In toluene (5 ml) were dissolved 1,2-epoxy-3-octadecyloxypropane (9.85 g), 2-mercaptoethanol (2.4 g) and triethylamine (1.5 ml), and the solution was stirred for 2 hours at 55°-60 ° C. The reaction mixture was cooled, and then ethyl acetate (100 ml) and hexane (100 ml) were added. The mixture was washed with 0.001 N sodium hydroxide (50 ml) and water (50 ml). The solvent was distilled off under reduced pressure to give a crude product of 2-(2-hydroxy-3-octadecyloxypropylthio)ethanol. The whole amount of this crude product was dissolved in pyridine (25 ml). To the solution was added triphenylmethyl chloride (12.5 g), and the mixture was stirred for 13 hours at 50 ° C. To the reaction mixture was added methanol (10 ml), and the resulting mixture was stirred at 60 ° C. for 0.5 hour, and then the mixture was concentrated to dryness. The residue was dissolved in a mixture of ethyl acetate (100 ml) and hexane (100 ml). The solution was washed with water, and concentrated to dryness under reduced pressure. The residue was purified by means of a silica gel column chromatography [carrier; 700 g, developing solvent ; hexane: ethyl acetate =9:1-4:1] to obtain the above-titled compound (13.4 g).

reactant | 1,2-epoxy-3-octadecyloxypropane | 9.85 g | O1CC1COCCCCCCCCCCCCCCCCCC | C21H42O2
reactant | 2-mercaptoethanol | 2.4 g | SCCO | C2H6OS
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 100 ml | CCCCCC | C6H14
product | 2-(2-hydroxy-3-octadecyloxypropylthio)ethanol | OC(CSCCO)COCCCCCCCCCCCCCCCCCC | C23H48O3S
